US06809177B1
Mulundocandin (220 mg, 2.2 mM) in ethanol (8 ml)) was stirred with 15 ml of W-2 Raney nickel (pH 7) in ethanol (30 ml) for 3 hours at room temperature. After standing for 15 minutes the supernatent solution was decanted and Raney nickel washed with 3×30 ml. ethanol with stirring and filtered. Combined ethanolic solutions were concentrated by distillation under a reduced pressure of 60-70 mm/Hg at 35° C. to obtain 160 mg (75%) of crude deoxymulundocandin as a slightly green solid.

reactant | Mulundocandin | 2.2 mM, 220 mg | CCC(C)CCCCCCCCCCC(=O)NC1CC(C(NC(=O)C2C(C(CN2C(=O)C(NC(=O)C(NC(=O)C3CC(CN3C(=O)C(NC1=O)C(C)O)O)C(C(C4=CC=C(C=C4)O)O)O)CO)C)O)O)O | C48H77N7O16
solvent | ethanol | 8 ml | C(C)O | C2H6O
catalyst | Raney nickel | 15 ml, pH 7 | [Ni] | Ni
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | deoxymulundocandin | 160 mg, 75% | CCC(C)CCCCCCCCCCC(=O)NC1CC(C(NC(=O)C2C(C(CN2C(=O)C(NC(=O)C(NC(=O)C3CC(CN3C(=O)C(NC1=O)C(C)O)O)C(CC4=CC=C(C=C4)O)O)CO)C)O)O)O | C48H77N7O15
